US05221754
2-Phenylthio-2-propenyl Alcohol
To a stirred solution of 36.0 g (0.64 mol) of propargyl alcohol and 0.12 g (1.8 mmol) of powdered potassium hydroxide, was added dropwise at 125° C. over 30 minutes, 60.0 g (0.54 mol) of thiophenol. The mixture was stirred for an additional 90 minutes, and allowed to cool to room temperature. The brown solution was diluted with 200 mL of ether, and extracted with three 100-mL portions of 2N sodium hydroxide, and two 100-mL portions of water. The organic phase was dried over MgSO4, filtered, and the solvent removed in vacuo from a water bath at 45° C. to give 90.4 g of a brown liquid, which, according to NMR analysis, contained 34% of the desired isomer. The mixture was fractionally distilled through a 0.8×20-cm column packed with glass helices to give 29.5 g of a colorless liquid, which by NMR analysis contained 67% of the desired isomer, bp 109°-116° C./1.2 Torr. This liquid was chromatographed on silica gel (100-200 mesh, 50 g/gram of compound) with 20% EtOAc/Skelly B as eluant, to give 16.4 g (18%) of the sulfide as a colorless liquid; IR (neat) cm-1 3360, 1610, 1580, 1470, 1430, 1040, 740, 690; 1H NMR (CDCl3) δ3.70 (t, 1H, OH), 4.10 (d, 2H, CH2), 5.2 (t, J=1 Hz, 1H, vinyl), 5.55 (t, J=1 Hz, 1H, vinyl), 7.15-7.55 (m, 5H, phenyl).

reactant | propargyl alcohol | 0.64 mol, 36.0 g | C(C#C)O | C3H4O
reactant | thiophenol | 0.54 mol, 60.0 g | C1(=CC=CC=C1)S | C6H6S
solvent | ether | 200 mL | CCOCC | C4H10O
catalyst | potassium hydroxide | 1.8 mmol, 0.12 g | [OH-].[K+]
product | 2-Phenylthio-2-propenyl Alcohol | 90.4 g | C1(=CC=CC=C1)SC(CO)=C | C9H10OS
